US07598257B2
Step 3. 5-(Methylthio)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanenitrile
A solution of 5-(methylthio)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanenitrile (0.35 g, 0.00079 mol) in THF (4 mL, 0.05 mol) and 3.0 M HCl (HCl) in water (4 mL) was heated to reflux overnight. The solvent was removed by rotary evaporation to give a pale orange oil. The oil was stirred in ethanol (3 mL, 0.05 mol) and 8.0 M ammonium hydroxide in water (1 mL) overnight. The reaction was concentrated and purified by prep LCMS (C18 column eluting with a gradient of ACN/H2O containing 0.15% NH4OH) to give 125 mg of a white foam. The white foam was triturated with MTBE (˜1.5 mL). The resulting solid was filtered, washed and dried to give 80 mg of the product (32% yield).

reactant | 5-(methylthio)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanenitrile | 0.00079 mol, 0.35 g | CSCCC(CC#N)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C21H30N6OSSi
reactant | THF | 0.05 mol, 4 mL | C1CCOC1 | C4H8O
reactant | ethanol | 0.05 mol, 3 mL | C(C)O | C2H6O
reactant | ammonium hydroxide | 8.0 M | [OH-].[NH4+]
solvent | HCl | 3.0 M | Cl | ClH
solvent | water | 4 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | 5-(Methylthio)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanenitrile | 125 mg | CSCCC(CC#N)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C15H16N6S
